US07923456B2
Step 4: 6-Aminomethyl-2-(2-fluoro-4-trimethylsilanyl-phenylamino)nicotinic acid methyl ester
To a suspension of 6-cyano-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester (13.1 g, 38.2 mmol) in methanol (285 mL) was added cobalt (II) chloride (18.2 g, 76.4 mmol). The reaction mixture was cooled to 0° C. and sodium borohydride (14.5 g, 382 mmol) was added in small portions over 20 minutes (CAUTION: EFFERVESCENCE). The reaction mixture was stirred at 0° C. for 1 hour. The reaction was quenched by the addition of concentrated hydrochloric acid (50 mL) and the mixture stirred at 0° C. for 10 minutes and at room temperature for 45 minutes. Diethylenetriamine (9 mL) was then added and the mixture stirred for a further 15 minutes. The reaction mixture was filtered to remove a white solid, which was washed with dichloromethane. The filtrate was concentrated in vacuo and the resultant residue was dissolved in ethyl acetate and washed with a saturated solution of sodium hydrogen carbonate, followed by water then brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a brown solid (13.2 g, 100%). LCMS (method B): RT=2.82 min, M+H+=348.

reactant | 6-cyano-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 38.2 mmol, 13.1 g | COC(C1=C(N=C(C=C1)C#N)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H18FN3O2Si
reactant | sodium borohydride | 382 mmol, 14.5 g | [BH4-].[Na+]
solvent | methanol | 285 mL | CO | CH4O
catalyst | cobalt (II) chloride | 76.4 mmol, 18.2 g | [Co](Cl)Cl
product | 6-Aminomethyl-2-(2-fluoro-4-trimethylsilanyl-phenylamino)nicotinic acid methyl ester | 13.2 g, 100% | COC(C1=C(N=C(C=C1)CN)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H22FN3O2Si
